US07977358B2
D] [3-Methoxymethyl-5-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone
In analogy to the procedure described in Example 18], 3-methoxymethyl-5-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid and 4-pyrrolidine-1-yl-piperidine gave the title compound in 94% yield as light yellow viscous oil. MS: 451.2 (MH+).

reactant | 3-methoxymethyl-5-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid | COCC1=NN(C(=C1C(=O)O)C)C1=CC(=CC=C1)C(F)(F)F | C14H13F3N2O3
reactant | 4-pyrrolidine-1-yl-piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | [3-Methoxymethyl-5-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazol-4-yl]-(4-pyrrolidin-1-yl-piperidin-1-yl)-methanone | 94% yield | COCC1=NN(C(=C1C(=O)N1CCC(CC1)N1CCCC1)C)C1=CC(=CC=C1)C(F)(F)F | C23H29F3N4O2
